US04990515
A stirred suspension of 5.27 g of ethyl 2-(2-chloro-6,7-difluoroquinoline-3-carbonyl)-3-cyclopropylaminoacrylate in 2.22 g of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) and 120 cm3 of ethanol is heated at a temperature close to 75° C. for 35 minutes. After cooling to about 20° C., the reaction mixture is taken up in 100 cm3 of water and extracted once with 100 cm3 and twice with 50 cm3 of trichloromethane. The combined organic extracts are washed with 3 times 50 cm3 of water, dried over magnesium sulphate, filtered and concentrated under reduced pressure (20 kPa) at a temperature close to 20° C. The dry extract obtained is taken up in 30 cm' of diisopropyl ether, drained and recrystallized from a mixture of 75 cm3 of ethanol and 75 cm3 of dimethylformamide. 3.57 g of 1-cyclopropyl-3-ethoxycarbonyl-7,8-difluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 229°-230° C.

reactant | ethyl 2-(2-chloro-6,7-difluoroquinoline-3-carbonyl)-3-cyclopropylaminoacrylate | 5.27 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CNC1CC1)F)F | C18H15ClF2N2O3
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.22 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethanol | 120 cm3 | C(C)O | C2H6O
solvent | water | 100 cm3 | O | H2O
product | 1-cyclopropyl-3-ethoxycarbonyl-7,8-difluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 3.57 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)OCC | C18H14F2N2O3
